US07534887B2
66a) N-(2-((tert-Butyldimethylsilyl)oxy)ethyl)thiourea
To a solution of 2-((tert-butyldimethylsilyl)oxy)ethanamine (WO 0007985: 24.4 g) in THF (300 mL) was added benzoyl isothiocyanate (22.7 g), and the mixture was mixed for 2 hours. The reaction solution was concentrated, and the residue was dissolved in methanol (150 mL). To the resulting solution were added potassium carbonate (5.0 g) and water (50 mL), and the mixture was mixed for 2 hours. The insolubles were filtered off, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, sequentially washed with 1 N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off to give the title compound (27.7 g) as a colorless oily matter.

reactant | 2-((tert-butyldimethylsilyl)oxy)ethanamine | 24.4 g | [Si](C)(C)(C(C)(C)C)OCCN | C8H21NOSi
reactant | benzoyl isothiocyanate | 22.7 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | N-(2-((tert-Butyldimethylsilyl)oxy)ethyl)thiourea | 27.7 g | [Si](C)(C)(C(C)(C)C)OCCNC(=S)N | C9H22N2OSSi
